US04690931
2-Bromo-4'-chloropropiophenone
A solution of 15.9 g (0.1 mol) of bromine in 20 ml of chloroform is added dropwise to a solution of 16.8 g (0.1 mol) of 4'-chloropropiophenone in 100 ml of chloroform, in the presence of a small amount of aluminium chloride, and the mixture is stirred overnight. After filtration and evaporation of the filtrate, the crystalline residue is washed with petroleum ether. When dry, it melts at 75° C.

reactant | bromine | 0.1 mol, 15.9 g | BrBr | Br2
reactant | 4'-chloropropiophenone | 0.1 mol, 16.8 g | ClC1=CC=C(C=C1)C(CC)=O | C9H9ClO
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-4'-chloropropiophenone | BrC(C(=O)C1=CC=C(C=C1)Cl)C | C9H8BrClO
